US08980322B2
Isopropyl 2-(methylamino)ethyl Carbonate Hydrochloride
To a mixture of tert-butyl 2-hydroxyethyl(methyl)carbamate (3.50 g) obtained in Reference Example 1 and ethyl acetate (20 mL) were added isopropyl chlorocarbonate (1.35 g) and pyridine (1.94 mL) under ice-cooling. After stirring under ice-cooling for 3.5 hrs., isopropyl chlorocarbonate (1.84 g) was added, and the mixture was stirred at room temperature for 2.5 hrs. Ethyl acetate (120 mL) was added to the reaction mixture, and the mixture was washed with water (50 mL) and saturated brine (50 mL), and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, a 4N hydrogen chloride—ethyl acetate solution (10 mL) was added to the residue. After stirring at room temperature for 2 hrs., the precipitated solid was collected by filtration. The solid was washed with ethyl acetate (15 mL), and dried under reduced pressure at 60° C. to give the title compound (1.38 g) as a white solid.

reactant | tert-butyl 2-hydroxyethyl(methyl)carbamate | 3.50 g | OCCN(C(OC(C)(C)C)=O)C | C8H17NO3
reactant | isopropyl chlorocarbonate | 1.35 g | C(OC(C)C)(=O)Cl | C4H7ClO2
reactant | pyridine | 1.94 mL | N1=CC=CC=C1 | C5H5N
reactant | isopropyl chlorocarbonate | 1.84 g | C(OC(C)C)(=O)Cl | C4H7ClO2
solvent | Ethyl acetate | 120 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | Isopropyl 2-(methylamino)ethyl Carbonate Hydrochloride | 1.38 g | Cl.C(OC(C)C)(OCCNC)=O | InChI=1S/C7H15NO3.ClH/c1-6(2)11-7(9)10-5-4-8-3;/h6,8H,4-5H2,1-3H3;1H
